US07842688B2
d) 2-Ethoxy-5-methylphenol
The solution of 14.5 g of 1-(2-ethoxy-5-methylphenyl)ethanone in 800 ml of dichloromethane is admixed with 36.8 g of 3-chloroperbenzoic acid and stirred at room temperature over 72 hours. The reaction mixture is concentrated by evaporation, and the residue is admixed with 400 ml of saturated aqueous sodium thiosulphate solution and extracted with tert-butyl methyl ether (2×800 ml). The organic phases are washed successively with saturated aqueous sodium carbonate solution (1×500 ml) and brine (500 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The residue is taken up in 75 ml of methanol, admixed with 25 ml of ammonia solution (25%) and stirred over 30 minutes. The reaction mixture is concentrated by evaporation, admixed with 0.5 M HCl (200 ml) and extracted with tert-butyl methyl ether (600 ml). The organic phase is washed with brine (500 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a brown solid from the residue by means of flash chromatography (SiO2 60F). Rt=3.89.

reactant | 1-(2-ethoxy-5-methylphenyl)ethanone | 14.5 g | C(C)OC1=C(C=C(C=C1)C)C(C)=O | C11H14O2
reactant | 3-chloroperbenzoic acid | 36.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 2-Ethoxy-5-methylphenol | C(C)OC1=C(C=C(C=C1)C)O | C9H12O2
